US06924391B2
3-[4-[3-(tert-Butyldiphenylsilyloxy)propyl]phenoxy]-1-[4-(tert-butoxycarbonyl)phenoxy]-2-propanone
A solution of 3-[4-[3-(tert-butyldiphenylsilyloxy)propyl]phenoxy]-1-[4-(tert-butoxy carbonyl)phenoxy]-2-propanol (2.08 g, 3.25 mmol) in dichloromethane (120 ml) was treated with 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one (Dess-Martin periodinane) (5.46 g, 12.9 mmol) and the resulting mixture was stirred at 22° C. for 18 hours. The reaction mixture was then diluted with ethyl acetate, washed with 10% aqueous sodium thiosulfate, saturated sodium bicarbonate, brine and dried (magnesium sulfate). Evaporation of the solvent and chromatography of the residue on silica gel (elution toluene-ethyl acetate, 95:5) gave 1.82 g (88%) of the title material as oil.

reactant | 3-[4-[3-(tert-butyldiphenylsilyloxy)propyl]phenoxy]-1-[4-(tert-butoxy carbonyl)phenoxy]-2-propanol | 3.25 mmol, 2.08 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCC1=CC=C(OCC(COC2=CC=C(C=C2)C(=O)OC(C)(C)C)O)C=C1 | C39H48O6Si
reactant | 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one | 12.9 mmol, 5.46 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[4-[3-(tert-Butyldiphenylsilyloxy)propyl]phenoxy]-1-[4-(tert-butoxycarbonyl)phenoxy]-2-propanone | 1.82 g, 88% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCC1=CC=C(OCC(COC2=CC=C(C=C2)C(=O)OC(C)(C)C)=O)C=C1 | C39H46O6Si
